US06077952
(a) 4-Methoxybenzyl (2RS)-2-hydroxy-2-[(3R,4R)-3-phenylacetamido-4-(tetrahydropyran-4-ylcarbonylmethylthio)azetidin-2-on-1-yl]acetate
Crude 4-methoxybenzyl (2RS)-2-hydroxy-2-[(3R,4R)-4-mercapto-3-phenylacetamidoazetidin-2-on-1-yl]acetate (prepared from 4-methoxybenzyl (2RS)-2-hydroxy-2-[(1R,5R)-3-benzyl-4-thia-2,6-diazabicyclo[3.2.0]hept-2-en-7-on-6-yl]acetate (8.35 g, 20 mmol)) was dissolved in acetone (25 ml) and treated with a solution of 4-bromoacetyltetrahydropyran (G. H. Harnest and A. Burger, J. Amer. Chem. Soc., 1943, 65, 370) (4.4 g, 20 mmol). After 20 min., potassium carbonate (1.38 g, 10 mmol) was added and the mixture stirred again for a further 45 min. Excess ethyl acetate was then added and the organic solution washed with water, brine and dried over anhydrous MGSO4. Evaporation of solvent and chromatography of the residue on silica gel using 50% hexane in ethyl acetate to 100% ethyl acetate gave the title compound as a pale yellow foam (8.5 g; 76%); νmax (CHCl3) 3420, 1780, 1750, 1680 and 1615 cm-1. [Mass spectrum: +ve ion (3-nitrobenzyl alcohol, sodium acetate) MNa+ (579)].

reactant | 4-methoxybenzyl (2RS)-2-hydroxy-2-[(3R,4R)-4-mercapto-3-phenylacetamidoazetidin-2-on-1-yl]acetate | 20 mmol, 8.35 g | OC(C(=O)OCC1=CC=C(C=C1)OC)N1C([C@H]([C@H]1S)NC(CC1=CC=CC=C1)=O)=O | C21H22N2O6S
reactant | 4-bromoacetyltetrahydropyran | BrCC(=O)C1CCOCC1 | C7H11BrO2
reactant | potassium carbonate | 10 mmol, 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetone | 25 ml | CC(=O)C | C3H6O
product | 4-Methoxybenzyl (2RS)-2-hydroxy-2-[(3R,4R)-3-phenylacetamido-4-(tetrahydropyran-4-ylcarbonylmethylthio)azetidin-2-on-1-yl]acetate | 8.5 g, 76% | OC(C(=O)OCC1=CC=C(C=C1)OC)N1C([C@H]([C@H]1SCC(=O)C1CCOCC1)NC(CC1=CC=CC=C1)=O)=O | C28H32N2O8S
